US07205323B2
Step 1: (3R)-N-BOC-3-Hydroxypyrrolidine:
A solution of di-tert-butyl dicarbonate (7.5 g, 34.40 mmol) in THF (50 ml) was added (10 min) to a stirred solution of (R)-(+)-3-pyrrolidinol (2.5 g, 28.70 mmol) and triethylamine (6.0 g, 57.40 mmol) in THF (60 ml) at room temperature. The reaction mixture was stirred for another 18 h at room temperature. The solvent was evaporated under reduced pressure and the residue was diluted with EtOAc (200 ml) and washed with water (2×100 ml) and brine (100 ml). The EtOAc extract was dried (Na2SO4) and evaporated under reduced pressure to give 4.0 g of the product as a white solid; IR (neat) 3422, 2977, 1676, 1420, 1167 cm−1; 1H NMR (CDCl3, 300 MHz) δ 1.46 (s, 9H), 1.93–2.08 (m, 2H), 3.34–3.49 (m, 4H), 4.43–4.48 (m, 1H). Step 2: (3S)-N-BOC-3-Fluoropyrrolidine: To a well stirred and cooled (−30° C.) solution of Step 1 intermediate (1.5 g, 8.01 mmol) in dichloroethane (50 ml) was added diethylaminosulphur trifluoride (1.94 mg, 12.01 mmol) under nitrogen and the reaction mixture was maintained at this temperature for 1 h. The reaction mixture was gradually allowed to warm to room temperature and stirring was continued for another 14 h. The reaction mixture was poured onto a mixture of ice and solid NaHCO3 and stirred till no effervescence was seen. The mixture was diluted with water and extracted with dichloromethane (3×100 ml). The combined organic extracts were washed with water, brine and dried (Na2SO4). The solvent was evaporated under reduced pressure and the residue obtained was purified by silica gel column chromatography (25% ethyl acetate in petroleum ether) to give 840 mg of the desired compound as yellow oil; IR (neat) 3500, 2978, 1698, 1407 cm−1; 1H NMR (CDCl3, 300 MHz) δ 1.44 (s, 9H), 1.89–2.28 (m, 2H), 3.44–3.77 (m, 4H), 5.11–5.31 (m, 1H). Step 3: (3S)-3-Fluoropyrrolidine 4-methylbenzenesulfonate: 4-Methylbenzenesulfonic acid monohydrate (752 mg, 3.95 mmol) was added to a stirred solution of Step 2 intermediate (280 mg, 1.48 mmol) in dry acetonitrile (20 ml) and the mixture was stirred at room temperature for 24 h under nitrogen atmosphere. The solvent was evaporated under reduced pressure and the oily residue obtained was triturated with dry diethyl ether (10 ml) to give 563 mg of the product as a white crystalline solid, which was used as such for the next step; IR (neat) 3443, 3019, 2783, 1626, 1434, 1215, 1034 cm−1 Step 4: A mixture of Step 3 intermediate (563 mg, 1.48 mmol) and triethylamine (196 mg, 1.93 mmol) in dry dichloromethane (20 ml) was added drop wise (10 min) to a stirred and cooled (0° C.) solution of chloroacetyl chloride (186 mg, 1.63 mmol) in dry dichloromethane (5 ml) over 20 min. The resulting mixture was stirred at 0° C. for 2 h and diluted with water (50 ml). The organic layer was separated, washed with water (2×50 ml), brine and dried (Na2SO4). The solvent was evaporated under reduced pressure to give 124 mg of the desired compound as an off white solid; 1H NMR (CDCl3, 300 MHz) δ 1.35 (brs, 2H), 1.20–2.41 (m, 2H), 3.52–4.11 (m, 4H), 5.19–5.43 (m, 1H).

reactant | (3S)-N-BOC-3-Fluoropyrrolidine | C(=O)(OC(C)(C)C)N1C[C@H](CC1)F | C9H16FNO2
reactant | diethylaminosulphur trifluoride | 12.01 mmol, 1.94 mg | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloroethane | 50 ml | ClC(C)Cl | C2H4Cl2
solvent | water | O | H2O
product | (3R)-N-BOC-3-Hydroxypyrrolidine | 840 mg | C(=O)(OC(C)(C)C)N1C[C@@H](CC1)O | C9H17NO3
